US07528147B2
1.65 ml of a 5N aqueous potassium hydroxide solution are added to a solution of 0.18 g of 2-{5,6-dimethoxy-3-[1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]indol-1-yl}ethanol in 10 ml of methanol, at a temperature in the region of 20° C. The reaction medium is refluxed for 4 hours. After cooling, the solid formed is filtered off through sintered glass, and washed twice with 3 ml of methanol and then five times with 5 ml of water. The solid is purified by flash-pack chromatography (silica, 95/05 by volume dichloromethane/methanol as eluents). 0.045 g of 2-[5,6-dimethoxy-3-(1H-pyrrolo[2,3-b]pyridin-2-yl)indol-1-yl]ethanol is obtained, the characteristics of which are as follows:

reactant | potassium hydroxide | 5N | [OH-].[K+]
reactant | 2-{5,6-dimethoxy-3-[1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]indol-1-yl}ethanol | 0.18 g | COC=1C=C2C(=CN(C2=CC1OC)CCO)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C26H25N3O5S
solvent | methanol | 10 ml | CO | CH4O
product | 2-[5,6-dimethoxy-3-(1H-pyrrolo[2,3-b]pyridin-2-yl)indol-1-yl]ethanol | 0.045 g | COC=1C=C2C(=CN(C2=CC1OC)CCO)C1=CC=2C(=NC=CC2)N1 | C19H19N3O3
